US07718722B2
N,N′-Bis[phenylsulfonyl]-1,4-benzoquinone diimine is sulfanylamidated by sodium N-chlorobenzenesulfonamide to form 2,5-bis(phenylsulfonylamino)-N,N′-bis(phenylsulfonyl)-1,4-benzoquinone diimine. Similarly, amidation of N,N′-bis[phenylsulfonyl]-1,4-benzoquinone diimine with N-chloroamides gives the corresponding sulfonyl benzoquinone diimine derivatives in one step.

reactant | N,N′-Bis[phenylsulfonyl]-1,4-benzoquinone diimine | C1(=CC=CC=C1)S(=O)(=O)N=C1C=CC(C=C1)=NS(=O)(=O)C1=CC=CC=C1 | C18H14N2O4S2
reactant | sodium N-chlorobenzenesulfonamide | ClNS(=O)(=O)C1=CC=CC=C1.[Na]
product | 2,5-bis(phenylsulfonylamino)-N,N′-bis(phenylsulfonyl)-1,4-benzoquinone diimine | C1(=CC=CC=C1)S(=O)(=O)NC=1C(C=C(C(C1)=NS(=O)(=O)C1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1)=NS(=O)(=O)C1=CC=CC=C1 | C30H24N4O8S4
